US05326760
(a) 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester
100 mg of 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-benzyloxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester, prepared as in Example 76 where the protecting group Rp, 1,1-dimethylethyl, was not removed following the condensation reaction seen in Scheme 2, was added to 10 mg of 10% Palladium on carbon in 2.5 mL absolute ethanol under 1 atmosphere of hydrogen. The mixture was stirred for 15 h and filtered through celite. The solvent was removed by evaporation and the residue was w ashed with hexane. The solvent was removed by evaporation yielding 66 mg of a white solid

reactant | 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-benzyloxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | 100 mg | CC(C)(C)OC(C(CCN1C(C2=CC=C(C=C2C1=O)OCC1=CC=CC=C1)=O)NC(CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C36H43N3O6
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 10 mg | [Pd] | Pd
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | 66 mg | CC(C)(C)OC([C@@H](CCN1C(C2=CC=C(C=C2C1=O)O)=O)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C29H37N3O6
